US06143764
6,7-Dimethoxy-4-(4-indolyloxy)quinoline [17]
4-Chloro-6,7-dimethoxyquinoline (112 mg) and commercially available 4-hydroxyindole (200 mg) were mixed and stirred at 180° C. for 30 minutes. The reaction mixture was neutralized with saturated aqueous sodium hydrogen carbonate and then partitioned between water and chloroform, and the chloroform layer was dried with anhydrous magnesium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue was purified by thin layer chromatography on silica gel eluting with chloroform/ethyl acetate (3/1) to obtain 51 mg of the title compound (yield: 32%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 112 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 4-hydroxyindole | 200 mg | OC1=C2C=CNC2=CC=C1 | C8H7NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 6,7-Dimethoxy-4-(4-indolyloxy)quinoline | 51 mg, yield: 32% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C2C=CNC2=CC=C1 | C19H16N2O3
